US04957538
A 0.1 mole of the ethyl ester of 3-hydroxy-4-nitrobenzoic acid was monobrominated using the procedure described in Example 1, except only one equivalent of bromine and two equivalents of t-butyl amine were used. This reaction yielded ethyl 2-bromo-3-hydroxy-4-nitrobenzoate in 70.1% yield. It had a melting point of 58°-61° C.

reactant | 3-hydroxy-4-nitrobenzoic acid | OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H5NO5
reactant | bromine | one equivalent | BrBr | Br2
reactant | t-butyl amine | two equivalents | C(C)(C)(C)N | C4H11N
product | ethyl 2-bromo-3-hydroxy-4-nitrobenzoate | 70.1% yield | BrC1=C(C(=O)OCC)C=CC(=C1O)[N+](=O)[O-] | C9H8BrNO5
